US03947580
Ethyl 3-(p-chlorophenyl)-3-cyanopyruvate (40 g., 0.16 mol.) and 49.8 g. (0.33 mol.) of p-chlorophenylacetonitrile were added to an alcoholic solution of sodium ethoxide [prepared from 7.36 g. (0.32 g.-atom) of sodium and 190 ml. of absolute ethanol] and the resulting solution was refluxed for two hours. The reaction mixture was diluted with water, acidified with acetic acid and cooled (ice bath) to yield 2,5-di-(p-chlorophenyl)-3,4-dioxoadiponitrile, m.p. 280°.

reactant | Ethyl 3-(p-chlorophenyl)-3-cyanopyruvate | 0.16 mol, 40 g | ClC1=CC=C(C=C1)C(C(C(=O)OCC)=O)C#N | C12H10ClNO3
reactant | p-chlorophenylacetonitrile | 0.33 mol | ClC1=CC=C(C=C1)CC#N | C8H6ClN
reactant | sodium ethoxide | 190 ml, 7.36 g | [O-]CC.[Na+]
reactant | sodium | 0.32 g | [Na] | Na
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,5-di-(p-chlorophenyl)-3,4-dioxoadiponitrile | ClC1=CC=C(C=C1)C(C#N)C(C(C(C#N)C1=CC=C(C=C1)Cl)=O)=O | C18H10Cl2N2O2
